US06617346B1
To a solution of 4-bromoresorcinol (1 g, 5.291 mmol) in acetone (10 mL) were added potassium carbonate (732 mg, 5.291 mmol) and 1-iodopropane (1.799 g, 10.58 mmol), respectively. The reaction mixture was heated at gentle reflux for 6 h. The solvent was removed and the residue was taken in diethyl ether (50 mL). The white solid was filtered off, and the filtrated was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 10% ethyl acetate in hexanes yielded 4-bromo-3-propoxy-phenol as a white solid (693 mg, 57%).

reactant | 4-bromoresorcinol | 5.291 mmol, 1 g | BrC1=C(C=C(O)C=C1)O | C6H5BrO2
reactant | potassium carbonate | 5.291 mmol, 732 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 10.58 mmol, 1.799 g | ICCC | C3H7I
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 4-bromo-3-propoxy-phenol | 693 mg, 57% | BrC1=C(C=C(C=C1)O)OCCC | C9H11BrO2
